US06680329B2
A suspension of 6 g (92 mmol) of zinc powder and 0.4 ml (4.7 mmol) of 1,2-dibromoethane in 7 ml of anhydrous N,N-dimethylformamide is heated at 60° C. with stirring and under argon for 45 min. 0.126 ml (1 mmol) of trimethylsilyl chloride is then added and the mixture is stirred vigorously at room temperature for 30 min. A solution of 7 g (15.4 mmol) of phenylmethyl (S)-4-iodo-2-[[(phenylmethoxy)carbonyl]amino]butanoate in 1 ml of anhydrous N,N-dimethylformamide is then added. After 30 min at room temperature, 0.28 g (0.31 mmol) of tris(dibenzylideneacetone)dipalladium (0), 0.38 g (1.24 mmol) of tri-ortho-tolylphosphine, 3.78 g (18.5 mmol) of 2-bromo-5-nitropyridine and 1 ml of anhydrous N,N-dimethylformamide are added at room temperature and the mixture is stirred for 3 h at room temperature. The reaction medium is taken up in 200 ml of ethyl acetate and 5 g of active charcoal and then filtered through a cake of Celite. The cake is rinsed with 2×100 ml of ethyl acetate and the organic phases are combined, washed with 5×100 ml of water, dried over sodium sulphate and concentrated under reduced pressure. The residue is purified by filtration on a column of silica gel, eluting with a cyclohexane/ethyl acetate gradient of from 0 to 20% ethyl acetate. 5.16 g of phenylmethyl (S)-5-nitro-α-[[(phenylmethoxy)carbonyl]amino]-2-pyridinebutanoate are thus obtained in the form of a yellow foam.

reactant | 1,2-dibromoethane | 4.7 mmol, 0.4 ml | BrCCBr | C2H4Br2
reactant | phenylmethyl (S)-4-iodo-2-[[(phenylmethoxy)carbonyl]amino]butanoate | 15.4 mmol, 7 g | ICC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C19H20INO4
reactant | tri-ortho-tolylphosphine | 1.24 mmol, 0.38 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 2-bromo-5-nitropyridine | 18.5 mmol, 3.78 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 92 mmol, 6 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.31 mmol, 0.28 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | trimethylsilyl chloride | 1 mmol, 0.126 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | phenylmethyl (S)-5-nitro-α-[[(phenylmethoxy)carbonyl]amino]-2-pyridinebutanoate | 5.16 g, Yield (%)=74 | [N+](=O)([O-])C=1C=CC(=NC1)CC[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C24H23N3O6
